US08754100B2
Synthesis of 7-chloro-1-[6-methoxy-5-(4-methylimidazol-1-yl)pyridin-2-yl]-4-(2-trifluoromethylphenyl)heptane-1,3-dione
A solution of 1-[6-methoxy-5-(4-methylimidazol-1-yl)pyridin-2-yl]ethanone obtained in Preparation Example 1-8 (412 mg) in tetrahydrofuran (10 ml) was added at −30° C. to a lithium diisopropylamine solution prepared from n-butyllithium (1.4 mL) and diisopropylamine (528 μL) in tetrahydrofuran (30 mL). After stirring at the same temperature for 30 minutes, 5-chloro-2-(2-trifluoromethylphenyl)valeric acid chloride (532 mg) was added and the mixture was stirred for 1.5 hours. After further stirring at room temperature for 30 minutes, the reaction was terminated with water, followed by dilution with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. The oil after concentration under reduced pressure was purified by silica gel chromatography (mobile phase:ethyl acetate/heptane=0 to 100%) to obtain the title compound (90 mg).

reactant | 1-[6-methoxy-5-(4-methylimidazol-1-yl)pyridin-2-yl]ethanone | COC1=C(C=CC(=N1)C(C)=O)N1C=NC(=C1)C | C12H13N3O2
reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | n-butyllithium | 1.4 mL | C(CCC)[Li]
reactant | diisopropylamine | 528 μL | C(C)(C)NC(C)C | C6H15N
reactant | 5-chloro-2-(2-trifluoromethylphenyl)valeric acid chloride | 532 mg | ClCCCC(C(=O)Cl)C1=C(C=CC=C1)C(F)(F)F | C12H11Cl2F3O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 7-chloro-1-[6-methoxy-5-(4-methylimidazol-1-yl)pyridin-2-yl]-4-(2-trifluoromethylphenyl)heptane-1,3-dione | 90 mg | ClCCCC(C(CC(=O)C1=NC(=C(C=C1)N1C=NC(=C1)C)OC)=O)C1=C(C=CC=C1)C(F)(F)F | C24H23ClF3N3O3
